US08008481B2
Benzyl isocyanate (0.25 mL, 2.0 mmol) was added to 3-iodo-1H-indazol-5-ylamine (Preparation #28, 0.50 g, 1.9 mmol) in THF (10 mL). After stirring at ambient temperature for about 2.5 hours, the mixture was filtered and washed with Et2O to give 1-benzyl-3-(3-iodo-1H-indazol-5-yl)-urea (0.41 g, 55%) as an ivory solid; RP-HPLC (Table 1, Method e) Rt 0.98 min, m/z (ESI+) 393.0 (M+H)+.

reactant | Benzyl isocyanate | 2.0 mmol, 0.25 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 3-iodo-1H-indazol-5-ylamine | 1.9 mmol, 0.50 g | IC1=NNC2=CC=C(C=C12)N | C7H6IN3
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-benzyl-3-(3-iodo-1H-indazol-5-yl)-urea | 0.41 g, 55% | C(C1=CC=CC=C1)NC(=O)NC=1C=C2C(=NNC2=CC1)I | C15H13IN4O
